US08912221B2
Step D: N-[1-(5-Bromo-3-fluoro-pyridin-2-yl)-vinyl]-acetamide
To a solution of 5-bromo-3-fluoro-pyridine-2-carbonitrile (10 g, 49.75 mmol) in toluene (50 ml) was added MeMgCl (24.87 ml, 74.62 mmol, 3M in THF) slowly at −10° C. The reaction mixture was stirred at −10° C. for 1 h, then acetic acid anhydride (47 ml, 497.5 mmol) was added and stirring was continued for 16 h at 25° C. The reaction was then quenched by addition of saturated aqueous NaHCO3 solution (100 ml) and the resulting mixture was stirred for another 30 minutes. The organic layer was separated, washed twice with water, with brine, dried with Na2SO4 and evaporated. The remaining residue was purified by chromatography (silica gel; hexane/EtOAc 85:15-80:20) to obtain the title compound as brown solid (8.9 g, 69%).

reactant | 5-bromo-3-fluoro-pyridine-2-carbonitrile | 49.75 mmol, 10 g | BrC=1C=C(C(=NC1)C#N)F | C6H2BrFN2
reactant | MeMgCl | 74.62 mmol, 3M, 24.87 ml | C[Mg]Cl
reactant | acetic acid anhydride | 497.5 mmol, 47 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-[1-(5-Bromo-3-fluoro-pyridin-2-yl)-vinyl]-acetamide | 8.9 g, 69% | BrC=1C=C(C(=NC1)C(=C)NC(C)=O)F | C9H8BrFN2O
